US04369321
The N,N'-bis-(ethoxycarbonyl)-N,N'-bis-(2,2,6,6-tetramethyl-piperidin-4-yl)-hexamethylenediamine was prepared by reacting N,N'-bis-(2,2,6,6-tetramethyl-piperidin-4-yl)-hexamethylenediamine with ethyl chlorocarbonate in toluene in the presence of aqueous NaOH and was crystallised from octane.

reactant | N,N'-bis-(2,2,6,6-tetramethyl-piperidin-4-yl)-hexamethylenediamine | CC1(NC(CC(C1)NCCCCCCNC1CC(NC(C1)(C)C)(C)C)(C)C)C | C24H50N4
reactant | ethyl chlorocarbonate | C(OCC)(=O)Cl | C3H5ClO2
reactant | NaOH | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N,N'-bis-(ethoxycarbonyl)-N,N'-bis-(2,2,6,6-tetramethyl-piperidin-4-yl)-hexamethylenediamine | C(C)OC(=O)N(CCCCCCN(C1CC(NC(C1)(C)C)(C)C)C(=O)OCC)C1CC(NC(C1)(C)C)(C)C | C30H58N4O4
